* SPICE3 file created from DFF.ext - technology: scmos

.option scale=0.09u

M1000 out a_81_3# gnd Gnd nfet w=20 l=2
+  ad=100 pd=50 as=600 ps=280
M1001 a_n1_80# D vdd w_n14_74# pfet w=40 l=2
+  ad=240 pd=92 as=800 ps=360
M1002 out a_81_3# vdd w_137_58# pfet w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1003 a_n1_26# clk a_n1_80# w_n14_74# pfet w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1004 a_81_3# a_32_3# vdd w_83_74# pfet w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1005 a_n1_26# D gnd Gnd nfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1006 a_88_3# clk a_81_3# Gnd nfet w=40 l=2
+  ad=240 pd=92 as=200 ps=90
M1007 a_39_3# a_n1_26# a_32_3# Gnd nfet w=40 l=2
+  ad=240 pd=92 as=200 ps=90
M1008 a_32_3# clk vdd w_34_74# pfet w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1009 gnd a_32_3# a_88_3# Gnd nfet w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 gnd clk a_39_3# Gnd nfet w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_n1_26# gnd 0.25fF
C1 a_81_3# w_137_58# 0.08fF
C2 w_n14_74# a_n1_80# 0.01fF
C3 a_32_3# gnd 0.10fF
C4 vdd a_n1_80# 0.44fF
C5 vdd w_137_58# 0.08fF
C6 a_88_3# gnd 0.45fF
C7 a_81_3# w_83_74# 0.06fF
C8 a_39_3# gnd 0.45fF
C9 clk a_n1_26# 0.07fF
C10 vdd a_81_3# 0.99fF
C11 vdd w_n14_74# 0.09fF
C12 a_32_3# clk 0.46fF
C13 vdd w_83_74# 0.08fF
C14 vdd w_34_74# 0.11fF
C15 a_32_3# a_n1_26# 0.18fF
C16 a_81_3# gnd 0.10fF
C17 D w_n14_74# 0.08fF
C18 D vdd 0.10fF
C19 w_137_58# out 0.06fF
C20 a_32_3# a_39_3# 0.47fF
C21 a_81_3# clk 0.19fF
C22 a_n1_80# a_n1_26# 0.41fF
C23 w_n14_74# clk 0.08fF
C24 vdd out 0.44fF
C25 vdd clk 0.48fF
C26 w_34_74# clk 0.08fF
C27 w_n14_74# a_n1_26# 0.06fF
C28 a_32_3# a_81_3# 0.06fF
C29 vdd a_n1_26# 0.03fF
C30 a_32_3# w_83_74# 0.08fF
C31 D clk 0.17fF
C32 gnd out 0.25fF
C33 a_81_3# a_88_3# 0.47fF
C34 a_32_3# vdd 0.87fF
C35 a_32_3# w_34_74# 0.06fF
C36 a_88_3# Gnd 0.01fF
C37 a_39_3# Gnd 0.01fF
C38 out Gnd 0.08fF
C39 gnd Gnd 0.87fF
C40 a_81_3# Gnd 0.75fF
C41 a_n1_26# Gnd 0.36fF
C42 vdd Gnd 0.99fF
C43 a_32_3# Gnd 0.92fF
C44 clk Gnd 1.90fF
C45 D Gnd 0.31fF
C46 w_137_58# Gnd 1.25fF
C47 w_83_74# Gnd 1.25fF
C48 w_34_74# Gnd 1.25fF
C49 w_n14_74# Gnd 1.67fF
