**D-Flipflop
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N

.subckt INV in out vdd gnd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N
M_N out in gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_P out in vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends INV

VDD vdd gnd 1.8
Vin in gnd PULSE(0 1.8 5n 0 0 7.5n 15n)
Vclk clk gnd 0

*first stage
M1N w12 in gnd gnd CMOSN W={width_N} L={LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M2P w12 clk w23 vdd CMOSP W={width_P*2} L={LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M3P w23 in vdd vdd CMOSP W={width_P*2} L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

*second stage
M4N w45 clk gnd gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M5N w56 w12 w45 gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M6P w56 clk vdd vdd CMOSP W={width_P} L={LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

*third stage
M7N w78 w56 gnd gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M8N qn clk w78 gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M9P qn w56 vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

*final inverter
XINV1 qn q vdd gnd INV

.control
tran 0.1n 100n
run
plot v(w12) v(in)+2

meas tran in_50_rise  WHEN v(in)=0.9 RISE=1
meas tran w12_50_rise  WHEN v(w12)=0.9 FALL=1

meas tran in_50_fall  WHEN v(in)=0.9 FALL=1
meas tran w12_50_fall  WHEN v(w12)=0.9 RISE=1

.endc
.end

