**D-Flipflop
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N

.subckt INV in out vdd gnd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N
M_N out in gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_P out in vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends INV

VDD vdd gnd 1.8
Vin in gnd PULSE(0 1.8 0 0.1n 0.1n 7.5n 15n)
Vclk clk gnd PULSE(0 1.8 2n 0.1n 0.1n 5n 10n)

*D-Flipflop implementation
*first stage
M1N w12 in gnd gnd CMOSN W={width_N} L={LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M2P w12 clk w23 vdd CMOSP W={width_P*2} L={LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M3P w23 in vdd vdd CMOSP W={width_P*2} L={2*LAMBDA}
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

*second stage
M4N w45 clk gnd gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M5N w56 w12 w45 gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M6P w56 clk vdd vdd CMOSP W={width_P} L={LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

*third stage
M7N w78 w56 gnd gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M8N qn clk w78 gnd CMOSN W={width_N*2} L={LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M9P qn w56 vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

*final inverter
XINV1 qn q vdd gnd INV

.control
tran 0.1n 100n
run
plot v(q) v(clk)+2 v(in)+4

* Tpcq: 50% of q - 50% of clk
meas tran clk_50_rise  WHEN v(clk)=0.9 RISE=3
meas tran q_50_rise    WHEN v(q)=0.9   RISE=2


meas tran clk_50_fall  WHEN v(clk)=0.9 RISE=5
meas tran q_50_fall    WHEN v(q)=0.9   FALL=2
.endc
.end

