* SPICE3 file created from INVERTER.ext - technology: scmos
.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P={40*LAMBDA}
.global gnd vdd
.PARAM VDD_val = 1.8

V_A A gnd PULSE(0 {VDD_val} 2n 100p 100p 16n 32n)
VDD vdd gnd 1.8
.option scale=0.09u

M1000 out A Vdd w_n6_n6# CMOSP w=40 l=2
+  ad=200 pd=90 as=200 ps=90
M1001 out A gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 out w_n6_n6# 0.06fF
C1 A Vdd 0.12fF
C2 out gnd 0.25fF
C3 w_n6_n6# Vdd 0.08fF
C4 out Vdd 0.44fF
C5 A w_n6_n6# 0.08fF
C6 gnd Gnd 0.08fF
C7 out Gnd 0.08fF
C8 Vdd Gnd 0.05fF
C9 A Gnd 0.16fF
C10 w_n6_n6# Gnd 1.25fF

.tran 10p 50n
.control
run
set curplottitle="2024102057  Inverter Gate using CMOS"
 
plot V(A) V(out)+2

.endc