* SPICE3 file created from NAND2.ext - technology: scmos

.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd
.param LAMBDA=0.09u
.param width_N=1.8u
.param width_P=2*width_N
.param L=2*LAMBDA
Va a gnd PULSE(0 1.8   0n 0n 0n   50n 100n)
Vb b gnd PULSE(0 1.8  10n 0n 0n   50n 100n)

VDD vdd gnd 1.8
.option scale=0.09u

M1000 vdd B out w_n6_14# CMOSP w=40 l=2
+  ad=400 pd=180 as=240 ps=92
M1001 gnd B a_7_n38# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=240 ps=92
M1002 a_7_n38# A out Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=200 ps=90
M1003 out A vdd w_n6_14# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 vdd B 0.10fF
C1 vdd A 0.10fF
C2 w_n6_14# out 0.02fF
C3 a_7_n38# out 0.44fF
C4 w_n6_14# B 0.08fF
C5 A w_n6_14# 0.08fF
C6 gnd a_7_n38# 0.45fF
C7 vdd w_n6_14# 0.15fF
C8 B out 0.08fF
C9 gnd out 0.07fF
C10 A out 0.08fF
C11 A B 0.20fF
C12 vdd out 0.85fF
C13 gnd Gnd 0.13fF
C14 a_7_n38# Gnd 0.01fF
C15 out Gnd 0.14fF
C16 vdd Gnd 0.07fF
C17 B Gnd 0.21fF
C18 A Gnd 0.21fF
C19 w_n6_14# Gnd 1.67fF
.control
run
tran 0.1n 300n
set curplottitle="2024102057  2-input NAND Gate using CMOS"
plot v(a) v(b)+2 v(out)+4
.endc
.end